US07083862B2
A solution of 3,5-bis{3′,5′-bis[3″,5″-bis(3′″,5′″-di-tert-butylstyryl)styryl]styryl}benzaldehyde (3.853 g, 1.585 mmol) in tetrahydrofuran (50 cm3) was treated with sodium borohydride (121 mg, 3.20 mmol) and heated at reflux for 135 min. The solvent was removed. Dichloromethane (50 cm3) was added and the solution washed with water (50 cm3) and brine (50 cm3), dried over sodium sulphate, filtered and the solvent removed to leave a yellow foam. The product was purified by column chromatography over silica, eluting with dichloromethane-light petroleum (2:3). Recrystallisation from a dichloromethane-methanol mixture gave 3,5-bis{3′,5′-bis[3″,5″-bis(3′″,5′″-di-tert-butylstyryl)styryl]styryl}benzyl alcohol (3.07 g, 80%) as a yellow powder, mp 248° C. (Found: C, 89.89; H, 8.89. C183H220O requires C, 90.24; H, 9.10%); vmax(KBr)/cm−1 3568 (OH), 1594 (C═C) and 959 (C═C—H trans); λmax(CH2Cl2)/nm (log ε) 323 (5.59) and 334sh (5.52); δH(400 MHz, CDCl3) 1.39 (144H, s, t-Bu), 1.80 (1H, t, OH), 4.85 (2H, d, CH2OH), 7.19 and 7.31 (16H, ABq, J 16, 7′″, 8′″-H), 7.32(4H, s, 7′, 8′-H), 7.34(8H, s, 7″, 8″-H), 7.38 (8H, dd, J 1.5, 4′″-H), 7.44 (16H, d, J 1.5, 2′″, 6′″-H), 7.57(2H, br s, 4′-H), 7.67 (12H, br s, 2″, 4″, 6″-H), 7.67 (4H, br s, 2′, 6′-H), 7.70 (1H, br s, 4-H) and 7.74 (2H, br s, 2, 6-H); m/z (MALDI) 2434.94 (M+, 100%).

reactant | 3,5-bis{3′,5′-bis[3″,5″-bis(3′″,5′″-di-tert-butylstyryl)styryl]styryl}benzaldehyde | 1.585 mmol, 3.853 g | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=CC=3C=C(C=CC=4C=C(C=O)C=C(C4)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=C(C3)C=CC3=CC(=CC(=C3)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C183H218O
reactant | sodium borohydride | 3.20 mmol, 121 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 3,5-bis{3′,5′-bis[3″,5″-bis(3′″,5′″-di-tert-butylstyryl)styryl]styryl}benzyl alcohol | 3.07 g, 80% | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=CC=3C=C(C=CC=4C=C(CO)C=C(C4)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=CC4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)C=C(C3)C=CC3=CC(=CC(=C3)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C183H220O
